US05225409
7-(4-BROMOBUTYL)2,3-DIHYDRO 3-OXO 1,4-BENZOXAZINE
In a 500-cm3 ground-necked flask surmounted by a condenser, and placed in an oil bath, 40.8 g (0.15 mol) of 7-(4-bromoBUTYRYL)2,3-dihydro 3-oxo 1,4-benzoxazine described in European Patent Application EP 0223674 are dissolved in 90 cm3 of trifluoroacetic acid with magnetic stirring and while the temperature is stabilized at 60° C. 52.7 cm3 (0.33 mol) of triethylsilane are introduced dropwise via a dropping funnel. After the addition, the heating is stopped and the mixture is then left stirring vigorously for 30 hours. The reaction medium is hydrolyzed by pouring it into ice-cold water, and the precipitate obtained is drained and washed with water until the filtrate is neutral and then with hexane. The product is dried and recrystallized in absolute ethanol. Yield: 80%

reactant | 7-(4-bromoBUTYRYL)2,3-dihydro 3-oxo 1,4-benzoxazine | 0.15 mol, 40.8 g | BrCCCC(=O)C1=CC2=C(NC(CO2)=O)C=C1 | C12H12BrNO3
reactant | triethylsilane | 0.33 mol, 52.7 cm3 | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 90 cm3 | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(4-BROMOBUTYL)2,3-DIHYDRO 3-OXO 1,4-BENZOXAZINE | Yield: 80% | BrCCCCC1=CC2=C(NC(CO2)=O)C=C1 | C12H14BrNO2
